US06281355B1
To a solution of 20.00 g of (4-oxo-thiochroman-2-yl)-carboxylic acid in 200 ml of benzene was added 14.0 ml of thionyl chloride, followed by reflux under heating for 3 hours. The reaction solution was concentrated under reduced pressure to give a residue, a solution of which in 100 ml of dichloromethane was added dropwise to a solution of 24.6 ml of dihexylamine and 20.0 ml of triethylamine in 200 ml of dichloromethane under ice-cooling with stirring. After stirring at room temperature overnight, the reaction solution was concentrated under reduced pressure, and to the residue was added ethyl acetate, and the mixture was washed with water, 1 N hydrochloric acid, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was purified by chromatography (silica gel; Wakogel C200 (manufactured by Wako Pure Chemicals), developing solvent; hexane-ethyl acetate=5:1-3:1) and recrystallized from hexane to give 29.22 g of N,N-dihexyl-(4-oxo-thiochroman-2-yl)-carboxamide.

reactant | (4-oxo-thiochroman-2-yl)-carboxylic acid | 20.00 g | O=C1CC(SC2=CC=CC=C12)C(=O)O | C10H8O3S
reactant | thionyl chloride | 14.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dihexylamine | 24.6 ml | C(CCCCC)NCCCCCC | C12H27N
reactant | triethylamine | 20.0 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N,N-dihexyl-(4-oxo-thiochroman-2-yl)-carboxamide | 29.22 g | C(CCCCC)N(C(=O)C1SC2=CC=CC=C2C(C1)=O)CCCCCC | C22H33NO2S
